US07470700B2
3-(2-Bromo-benzyl)-2-chloro-5-fluoro-3H-pyrimidin-4-one
The title compound was prepared in 11% yield from 2-chloro-5-fluoro-3H-pyrimidin-4-one and 2-bromobenzyl bromide according to the procedure for Example 1B. 1H NMR (400 MHz, CDCl3): δ 7.82 (d, 1H, J=1.2 Hz), 7.62 (dd, 1H, J=7.6, 1.2 Hz), 7.17-7.30 (m, 2H), 6.78 (d, 1H, J=7.6 Hz), 5.52 (s, 2H). MS (ES) [m+H] calc'd for C11H7N2OFClBr, 317, 319; found 317, 319.

reactant | 2-chloro-5-fluoro-3H-pyrimidin-4-one | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
reactant | 2-bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
product | 3-(2-Bromo-benzyl)-2-chloro-5-fluoro-3H-pyrimidin-4-one | 11% yield | BrC1=C(CN2C(=NC=C(C2=O)F)Cl)C=CC=C1 | C11H7BrClFN2O
